US07326791B2
N-[(1S)-1-(5-hydroxy-1H-benzimidazol-2-yl)ethyl]-3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzamide
Prepared analogously to Example 1g from 3-methyl 4-(pyrrolidin-1-ylcarbonyl)benzoic acid, TB TU, diisopropylethyl amine, and (1S)-1-(5-hydroxy-1H-benzimidazol-2-yl)ethylamine in tetrahydrofuran. Yield: 12%; Rf value: 0.40 (silica gel: dichloromethane/ethanol/ammonia=9:1:0.1); C22H24N4O3 (392.457); mass spectrum: (M+H)+=393

reactant | 3-methyl 4-(pyrrolidin-1-ylcarbonyl)benzoic acid | CC=1C=C(C(=O)O)C=CC1C(=O)N1CCCC1 | C13H15NO3
reactant | diisopropylethyl amine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (1S)-1-(5-hydroxy-1H-benzimidazol-2-yl)ethylamine | OC1=CC2=C(NC(=N2)[C@H](C)N)C=C1 | C9H11N3O
reactant | dichloromethane ethanol ammonia | ClCCl.C(C)O.N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | N-[(1S)-1-(5-hydroxy-1H-benzimidazol-2-yl)ethyl]-3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzamide | Yield: 12% | OC1=CC2=C(NC(=N2)[C@H](C)NC(C2=CC(=C(C=C2)C(=O)N2CCCC2)C)=O)C=C1 | C22H24N4O3
